US06509328B1
3-(2-Cyano-pyridin-4-yl)-3-oxo-propionic Acid tert.-Butyl Ester
Prepared from 2-cyano-isonicotinic acid ethyl ester [CAS-No. 58481-14-4] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as a light brown solid (7.70 g).

reactant | 2-cyano-isonicotinic acid ethyl ester | C(C)OC(C1=CC(=NC=C1)C#N)=O | C9H8N2O2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-(2-Cyano-pyridin-4-yl)-3-oxo-propionic Acid tert.-Butyl Ester | 7.70 g | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
